US07642270B2
F. 4-(4-Methyl-piperazin-1-yl)-phenylamine
Potassium carbonate (1.9 g, 14.2 mmol) was added to a mixture of 1-fluoro-4-nitrobenzene (1 g, 7.1 mmol) and 1-methyl-piperazine (0.94 mL, 8.5 mmol) in methyl sulfoxide (DMSO, 5 mL). The mixture was stirred at 80° C. for 3 hours. After cooling down, the residue was extracted into EtOAc. The organic layer was washed with water, brine and then dried with Na2SO4. Removal of the solvent in vacuo yielded an orange solid. The solid was dissolved in 25 mL of methanol and palladium on carbon (10% Pd/C, 50 mg) was added slowly. The system was sealed and blanketed with hydrogen. The mixture was stirred at rt for 16 hours under hydrogen. The catalyst was filtered through a celite pad and the solvent was evaporated to leave a dark purple solid (1.3 g, 80%). 1H NMR (300 MHz, CD3OD) δ (ppm): 6.90 (m, 2H), 6.81 (m, 2H), 3.38 (m, 4H), 3.26 (m, 4H), 2.93 (s, 3H).

reactant | Potassium carbonate | 14.2 mmol, 1.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-fluoro-4-nitrobenzene | 7.1 mmol, 1 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1-methyl-piperazine | 8.5 mmol, 0.94 mL | CN1CCNCC1 | C5H12N2
reactant | hydrogen | [H][H] | H2
solvent | methyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
solvent | methanol | 25 mL | CO | CH4O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | 4-(4-Methyl-piperazin-1-yl)-phenylamine | 1.3 g, 80% | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
